US06203724B1
24.32 ml of (trimethylsilyl)acetylene are added dropwise at −30° C. to a solution of 30.0 g of 4′-propylbicyclohexyl-4-one and 3.41 g of tetrabutylammonium fluoride trihydrate in 300 ml of THF. The cooling bath is removed after 5 minutes, and the reaction mixture is stirred at RT for 2 hours. A suspension of 39.2 g of potassium fluoride in methanol is subsequently added, and the mixture is stirred at RT for 3 days. Conventional work-up gives 4-ethynyl-4′-propylbicyclohexyl-4-ol.

reactant | (trimethylsilyl)acetylene | 24.32 ml | C[Si](C)(C)C#C | C5H10Si
reactant | 4′-propylbicyclohexyl-4-one | 30.0 g | C(CC)C1CCC(CC1)C1CCC(CC1)=O | C15H26O
reactant | tetrabutylammonium fluoride trihydrate | 3.41 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 4-ethynyl-4′-propylbicyclohexyl-4-ol | C(#C)C1(CCC(CC1)C1CCC(CC1)CCC)O | C17H28O
